US07855216B2
Step 3: 3-(2-Fluoro-4-trimethylsilanyl-phenylamino)-1-(4-methoxy-benzyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester
3-Amino-1-(4-methoxy-benzyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester (200 mg, 0.64 mmol) was dissolved in toluene (6 mL), to which Cs2CO3 (417 mg, 1.28 mmol) and trifluoro-methanesulfonic acid 2-fluoro-4-trimethylsilanyl-phenyl ester (263 mg, 0.83 mmol) were added and the mixture degassed with nitrogen before addition of Pd2dba3 (29 mg, 0.032 mmol) and Xantphos (37 mg, 0.064 mmol). The mixture was heated at 105° C. for 18 hours, allowed to cool to ambient temperature then partitioned between EtOAc (50 mL) and water (30 mL). The organic layer was isolated, dried (Na2SO4), filtered and evaporated to give a black oil. The oil was purified by flash column chromatography on silica (Si-PPC, cyclohexane:EtOAc, gradient 90:10 to 40:60) to provide the title compound as a pale brown solid (269 mg, 88%). LCMS (method B): RT=2.81 min, M+H+=478.

reactant | 3-Amino-1-(4-methoxy-benzyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester | 0.64 mmol, 200 mg | COC(=O)C1=C(C=2C=NC=CC2N1CC1=CC=C(C=C1)OC)N | C17H17N3O3
reactant | Cs2CO3 | 1.28 mmol, 417 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | trifluoro-methanesulfonic acid 2-fluoro-4-trimethylsilanyl-phenyl ester | 0.83 mmol, 263 mg | FC1=C(C=CC(=C1)[Si](C)(C)C)OS(=O)(=O)C(F)(F)F | C10H12F4O3SSi
reactant | Xantphos | 0.064 mmol, 37 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.032 mmol, 29 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(2-Fluoro-4-trimethylsilanyl-phenylamino)-1-(4-methoxy-benzyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester | 269 mg, 88% | COC(=O)C1=C(C=2C=NC=CC2N1CC1=CC=C(C=C1)OC)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C26H28FN3O3Si
